
Vdd N001 0 5
Vin in 0 SINE({VG} 1m 1e3) AC 1
M1 out in 0 0 N_1u l={Ln} w={Wn}
C2 out 0 1p
R1 N001 out {Rd}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Mohamed\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec   100 1k 1e9
 *.op
.inc cmosedu_models.lib
.param Rd=25000.0
.param Wn=0.0002
.param VG=1.1
.param Ln=5e-06


.MEAS AC GAIN max mag(V(out))

.MEAS AC BW WHEN MAG(V(out)) = GAIN/sqrt(2)

.end
